US04226783
p-Tolunitrile (4.10 g, 0.035 mole) and dichlorine monoxide (6.93 g, 0.074 mole) in carbon tetrachloride (97 ml) were added to a bottle under nitrogen. The bottle was capped and stored at room temperature for 4 days. The water layer was separated, the organic layer dried (MgSO4) and the solvent removed on a rotary evaporator to give p-cyanobenzotrichloride as an oil (7.87 g, yield 100%). The oil was combined with a similar run and distilled in a short path still to give a white crystalline solid which was recrystallized from petroleum ether to give substantially pure p-cyanobenzotrichloride (mp 40.5°-41.7°).

reactant | p-Tolunitrile | 0.035 mole, 4.10 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | dichlorine monoxide | 0.074 mole, 6.93 g | O(Cl)Cl | Cl2O
reactant | carbon tetrachloride | 97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | p-cyanobenzotrichloride | 7.87 g, yield 100% | C(#N)C1=CC=C(C=C1)C(Cl)(Cl)Cl | C8H4Cl3N
